US09216991B2
Step 2: Formation of 4-(4-{2-[3-(1-Methyl-1H-pyrazol-4-yl)-phenyl]-pyrimidin-5-yl}-pyrazol-1-yl)-cyclohexanecarboxylic acid
A solution of 4-(4-{2-[3-(1-Methyl-1H-pyrazol-4-yl)-phenyl]-pyrimidin-5-yl}-pyrazol-1-yl)-cyclohexanecarboxylic acid ethyl ester (50 mg; 0.11 mmol; 1.0 eq.) and NaOH (5.00 mL of a 1N solution; 5.0 mmol; 46 eq.) in iPrOH (20 mL) was stirred at RT for 16 h. It was then poured into a 1 N solution of HCl and extracted with EtOAc (twice). Combined organic phases were washed with brine, dried over magnesium sulfate, filtered and concentrated to give a cis-trans mixture of the title compound as a yellow solid (30 mg, 59%). 1H NMR (300 MHz, DMSO-d6) δ 9.17 (s, 2H), 8.57-8.47 (m, 2H), 8.27 (s, 1H), 8.24-8.17 (m, 1H), 8.13 (s, 1H), 7.92 (s, 1H), 7.78-7.66 (m, 1H), 7.51 (t, J=7.8 Hz, 1H), 4.31-4.15 (m, 1H), 3.89 (s, 3H), 2.66-1.45 (m, 9H). HPLC (Condition A): Rt 3.23 min (purity 93.0%). HPLC (Chiralpak IA, EtOH:TFA:THF 90:0.1:10): Rt 7.23; 10.97 min (purity 30.2: 66.6%); MS (ESI+): 429.2.

reactant | 4-(4-{2-[3-(1-Methyl-1H-pyrazol-4-yl)-phenyl]-pyrimidin-5-yl}-pyrazol-1-yl)-cyclohexanecarboxylic acid ethyl ester | 0.11 mmol, 50 mg, 1.0 eq. | C(C)OC(=O)C1CCC(CC1)N1N=CC(=C1)C=1C=NC(=NC1)C1=CC(=CC=C1)C=1C=NN(C1)C | C26H28N6O2
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | iPrOH | 20 mL | CC(C)O | C3H8O
product | 4-(4-{2-[3-(1-Methyl-1H-pyrazol-4-yl)-phenyl]-pyrimidin-5-yl}-pyrazol-1-yl)-cyclohexanecarboxylic acid | 30 mg, 59% | CN1N=CC(=C1)C=1C=C(C=CC1)C1=NC=C(C=N1)C=1C=NN(C1)C1CCC(CC1)C(=O)O | C24H24N6O2
